US05308854
Step B: Preparation of 3-[(2-Benzoxazolyl)methyl]-amino-5-methylthio-6-methylpyridin-2(1H)-one
A mixture of 3-amino-5-methylthio-6-methylpyridin-2(1H)-one (0.201 g, 0.0013 mol), 2-chloromethylbenzoxazole (0.239 g, 0.0014 mol), diisopropylethylamine (0.181 g, 0.0014 mol), and acetonitrile (6 mL) was heated at reflux under nitrogen for 35 hours. The dark solids which had formed were removed by filtration (0.089 g), and the filtrate evaporated to dryness. The two fractions were combined and chromatographed on a 30 mm column containing 230-400 mesh silica gel (6 inches). The column was prepared with methylene chloride and the crude product applied in methylene chloride. Development of the column was with 2% 2-propanol/methylene chloride (500 mL), 5% 2-propanol/methylene chloride (500 mL), and 10% 2-propanol/methylene chloride (1000 mL). Concentration of the fractions containing the desired product gave 0.133 g (33.5% yield) of 3-[(2-Benzoxazolyl)methyl]amino-5-methylthio-6-methylpyridin-2(1H)-one m.p. 180°-181° C.

reactant | 3-amino-5-methylthio-6-methylpyridin-2(1H)-one | 0.0013 mol, 0.201 g | NC=1C(NC(=C(C1)SC)C)=O | C7H10N2OS
reactant | 2-chloromethylbenzoxazole | 0.0014 mol, 0.239 g | ClCC=1OC2=C(N1)C=CC=C2 | C8H6ClNO
reactant | diisopropylethylamine | 0.0014 mol, 0.181 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | 2-propanol methylene chloride | 1000 mL | CC(C)O.C(Cl)Cl
solvent | 2-propanol methylene chloride | 500 mL | CC(C)O.C(Cl)Cl
solvent | 2-propanol methylene chloride | 500 mL | CC(C)O.C(Cl)Cl
product | 3-[(2-Benzoxazolyl)methyl]-amino-5-methylthio-6-methylpyridin-2(1H)-one | O1C(=NC2=C1C=CC=C2)CC=2C(N(C(=C(C2)SC)C)N)=O | C15H15N3O2S
